US06821964B2
Preparation of 1,4-dibenzyl-diazabicyclo[3.3.0]octane-2,6-dione (I-1a):
Paraformaldehyde (13.5 g) was added to a solution of N-benzylmaleimide (10.8 g; 60 mmol) and N-benzylglycine (9.9 g; 60 mmol) in toluene (400 mL) and the resulting mixture was refluxed with azeotropic removal of water, for 10 hours. The mixture was cooled to room temperature and was concentrated in vacuo. The mixture was purified by flash chromatography (30% EtOAc in hexane) to afford 15 g (78%) of the title product (I-1 a), as an amorphous solid.

reactant | Paraformaldehyde | 13.5 g | C=O | CH2O
reactant | N-benzylmaleimide | 60 mmol, 10.8 g | C(C1=CC=CC=C1)N1C(C=CC1=O)=O | C11H9NO2
reactant | N-benzylglycine | 60 mmol, 9.9 g | C(C1=CC=CC=C1)NCC(=O)O | C9H11NO2
reactant | water | O | H2O
reactant | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | 1,4-dibenzyl-diazabicyclo[3.3.0]octane-2,6-dione | 15 g, 78% | C(C1=CC=CC=C1)C12C(NN(C2C(CC1)=O)CC1=CC=CC=C1)=O | C20H20N2O2
